US07659268B2
1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride
To 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (600 mg, 2.5 mmol) in thionyl chloride (5400 L, 7.4 mmol) was added N,N-dimethylformamide (60 □L, 0.60 mmol). The reaction mixture was stirred at room temperature for one hour. Excess thionyl chloride and N,N-dimethylformamide were removed in vacuo and the resulting acid chloride was used without further purification.

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 2.5 mmol, 600 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | thionyl chloride | 7.4 mmol, 5400 L | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.60 mmol | CN(C=O)C | C3H7NO
product | 1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
